US08912173B2
Synthesis of (R)-4-(hydroxymethyl)-1-((R)-1-phenylethyl)pyrrolidin-2-one (for Example 7, 9, 17, 19)
5 g (1′R,3R)-1-(1′Phenylethyl)-5-oxo-3-pyrrolidine carboxylic acid was dissolved in 50 mL tetrahydrofuran, then the solution was cooled to 0° C. 16.5 mL borane dimethyl sulfide (2 M in tetrahydrofuran) was added dropwise over 30 min and the reaction solution was slowly warmed to 25° C. and stirred for a further 2 h at 25° C. The reaction mixture was concentrated, diluted in dichloromethane and washed with sodium bicarbonate solution. The water phase was extracted with dichloromethane (×2) and the combined organic phases were dried over magnesium sulfate and concentrated.

reactant | (1′R,3R)-1-(1′Phenylethyl)-5-oxo-3-pyrrolidine carboxylic acid | 5 g | C[C@H](C1=CC=CC=C1)N2C[C@@H](CC2=O)C(=O)O | C13H15NO3
reactant | borane dimethyl sulfide | 2 M, 16.5 mL | CSC.B
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | (R)-4-(hydroxymethyl)-1-((R)-1-phenylethyl)pyrrolidin-2-one | OC[C@@H]1CC(N(C1)[C@H](C)C1=CC=CC=C1)=O | C13H17NO2
